US06583155B2
tert-Butyl-chloro-dimethylsilane (12.9 g, 85.5 mmol) followed by Et3N (19 mL, 136 mmol) was added to a 0° C. solution of (S)-(+)-glycidol (5.0 g, 67 mmol) in CH2Cl2 (200 mL). The solution was allowed to warm to 23° C. with stirring over 17 h. The resulting pink solution was diluted with Et2O (800 mL) and stirred an additional 30 min. The Et2O layer was washed with saturated aqueous NaHCO3 (200 mL), H2O (2×100 mL), brine (100 mL), dried over Na2SO4 and concentrated. Purification by column chromatography (silica, 5-10% Et2O/hexanes) gave (R)-tert-Butyl-dimethyl-oxiranylmethoxy-silane (10.01 g, 79%). TLC (silica, 10% Et2O/hexanes): Rf=0.5. 1H NMR (CDCl3, 400 MHz): 3.85 (dd, J=11.9, 3.2 Hz, 1H), 3.66 (dd, J=11.9, 4.8 Hz, 1H), 3.09 (m, 1H), 2.77 (dd, J=5.0, 4.2 Hz, 1H), 2.64 (dd, J=5.2, 2.7 Hz, 1H), 0.90 (s, 9H), 0.08 (s, 3H), 0.07 (s, 3H).

reactant | tert-Butyl-chloro-dimethylsilane | 85.5 mmol, 12.9 g | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | Et3N | 136 mmol, 19 mL | CCN(CC)CC | C6H15N
reactant | (S)-(+)-glycidol | 67 mmol, 5.0 g | C1[C@@H](O1)CO | C3H6O2
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
solvent | Et2O | 800 mL | CCOCC | C4H10O
product | (R)-tert-Butyl-dimethyl-oxiranylmethoxy-silane | 10.01 g, 79% | C(C)(C)(C)[Si](OC[C@@H]1OC1)(C)C | C9H20O2Si
